US08877815B2
A solution of (S)-benzyl 1-((S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoyl)pyrrolidine-2-carboxylate (429 mg, 0.812 mmol) and HCl in 1,4-dioxane (2.03 ml, 8.12 mmol) was allowed to stir for 1 hour and concentrated under reduced pressure to give (S)-benzyl 1-((S)-2-amino-3-(biphenyl-4-yl)propanoyl)pyrrolidine-2-carboxylate hydrochloride (396 mg); Retention time=1.00 minutes (condition B); MS (m+1)=429.2.

reactant | (S)-benzyl 1-((S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoyl)pyrrolidine-2-carboxylate | 0.812 mmol, 429 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H36N2O5
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 8.12 mmol, 2.03 ml | O1CCOCC1 | C4H8O2
product | (S)-benzyl 1-((S)-2-amino-3-(biphenyl-4-yl)propanoyl)pyrrolidine-2-carboxylate hydrochloride | 396 mg | Cl.N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C27H28N2O3.ClH/c28-24(18-20-13-15-23(16-14-20)22-10-5-2-6-11-22)26(30)29-17-7-12-25(29)27(31)32-19-21-8-3-1-4-9-21;/h1-6,8-11,13-16,24-25H,7,12,17-19,28H2;1H/t24-,25-;/m0./s1
